* c:\users\theje\esim-workspace\li\li.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ net-_u1-pad20_ linear_interpolator
* u2  clk rst valid_in net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ adc_bridge_3
* u3  gnd data_in_6 data_in_5 gnd gnd gnd gnd gnd net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ adc_bridge_8
* u4  net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ out_msb out_6 out_5 out_4 out_3 out_2 out_1 out_lsb dac_bridge_8
* u5  net-_u1-pad20_ valid_out dac_bridge_1
v1  clk gnd pulse(0 5 0 1n 1n 50n 100n)
v2  rst gnd pulse(0 5 150n 1n 1n 10u 20u)
v3  valid_in gnd pulse(0 5 200n 1n 1n 50n 400n)
v4  data_in_5 gnd pulse(0 5 1u 1n 1n 3u 10u)
v5  data_in_6 gnd pulse(0 5 2u 1n 1n 1u 10u)
* u6  out_msb plot_v1
* u7  out_6 plot_v1
* u8  out_5 plot_v1
* u9  out_4 plot_v1
* u10  out_3 plot_v1
* u11  out_2 plot_v1
* u12  out_1 plot_v1
* u13  out_lsb plot_v1
* u14  valid_out plot_v1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ ] [net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ ] [net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ ] [net-_u1-pad20_ ] u1
a2 [clk rst valid_in ] [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ ] u2
a3 [gnd data_in_6 data_in_5 gnd gnd gnd gnd gnd ] [net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ ] u3
a4 [net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ net-_u1-pad18_ net-_u1-pad19_ ] [out_msb out_6 out_5 out_4 out_3 out_2 out_1 out_lsb ] u4
a5 [net-_u1-pad20_ ] [valid_out ] u5
* Schematic Name:                             linear_interpolator, NgSpice Name: linear_interpolator
.model u1 linear_interpolator(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_8, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 10e-09 5e-06 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt

set xbrushwidth=3      
set color0=white       
set color1=black       

* 1. Reconstruct the raw analog input using the safe, positive pins!
let raw_input = (v(data_in_6)/4 + v(data_in_5)/8)

* 2. Mathematically sum the 8 DAC pins into a single analog waveform
let smoothed_out = (v(out_msb)*(128/255) + v(out_6)*(64/255) + v(out_5)*(32/255) + v(out_4)*(16/255) + v(out_3)*(8/255) + v(out_2)*(4/255) + v(out_1)*(2/255) + v(out_lsb)*(1/255))

* 3. Plot them both together
plot smoothed_out raw_input

.endc
.end
