
.subckt CMOS_Inv VDD in out

xM1  out in VDD VDD sky130_fd_pr__pfet_01v8 w=1 l=.5
xM2  out in GND GND sky130_fd_pr__nfet_01v8 w=.42 l=.5

.ends