* /home/ayush/eSim-Workspace/miller21/miller21.cir




.subckt miller21 vdd clk data out
.include static.sub
.include toutput.sub
X1  vdd clk data Net-_X1-Pad4_ static		
X2  vdd Net-_X1-Pad4_ out toutput		
*U1  vdd clk data out PORT	

.ends miller21
